US05817698
(±) cis-1-(4-Benzyloxybenzyl)-2-tert-butoxycarbonylaminocyclopentane
(±) cis-1-(4-Benzyloxybenzyl)-2-aminocyclopentane (470 mg, 1.7 mmol) was dissolved in dioxane (25 ml) and cooled to 0° C. Aqueous 3M NaOH (560 μl) and di-tert-butyldicarbonate (397 μl, 1.7 mmol) were added, and the reaction stirred at room temperature for 3 h before pouring into water and extracting with diethyl ether (3×40 ml). After drying over sodium sulfate, solvents were removed in vacuo and the residue recrystallised from ethanol/ hexanes to afford the title compound as an off white solid.

reactant | (±) cis-1-(4-Benzyloxybenzyl)-2-aminocyclopentane | 1.7 mmol, 470 mg | C(C1=CC=CC=C1)OC1=CC=C(C[C@H]2[C@H](CCC2)N)C=C1 | C19H23NO
reactant | NaOH | 3M, 560 μl | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 1.7 mmol, 397 μl | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | (±) cis-1-(4-Benzyloxybenzyl)-2-tert-butoxycarbonylaminocyclopentane | C(C1=CC=CC=C1)OC1=CC=C(C[C@H]2[C@H](CCC2)NC(=O)OC(C)(C)C)C=C1 | C24H31NO3
